US05403816
1.57 g (4.7 mmol) of the obtained methyl 6-acetylamino-3-benzyloxypicolinate and 0.2 g of 10% palladium carbon were added to 100 ml of methanol, and the mixture was hydrogenated under atmospheric pressure. After completion of the reaction, the reaction mixture was filtered and concentrated to obtain crystals, which were washed with diisopropyl ether to obtain methyl 6-acetylamino-3-hydroxypicolinate.

reactant | methyl 6-acetylamino-3-benzyloxypicolinate | 4.7 mmol, 1.57 g | C(C)(=O)NC1=CC=C(C(=N1)C(=O)OC)OCC1=CC=CC=C1 | C16H16N2O4
catalyst | palladium carbon | 0.2 g | [C].[Pd]
solvent | methanol | 100 ml | CO | CH4O
product | methyl 6-acetylamino-3-hydroxypicolinate | yield: 79% | C(C)(=O)NC1=CC=C(C(=N1)C(=O)OC)O | C9H10N2O4
